### PR TITLE
feat(RingTheory/AdjoinRoot/MapCyclotomic): define algebra isomorphism isAdjoinRoot for roots of unity

### PR DESCRIPTION
**Pull request by metakunt**
From #43343

Section is deliberately not exposed. I think the API developed should be enough. But if needed it can always be exposed later.

### CODE REVIEW

**Review by tb65536 — COMMENTED** [review]
Is it possible to generalize to `IsAdjoinRoot`?

File: Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean [hunk 1]
```diff
@@ -0,0 +1,128 @@
...
+
+namespace AdjoinRoot
+
+variable (R : Type*) [CommRing R] (r j k : ℕ)
+
+/-- The algebra homomorphism taking an element to the `k`-th power. -/
+noncomputable def mapCyclotomic :
+    AdjoinRoot (X ^ r - 1 : R[X]) →ₐ[R] AdjoinRoot (X ^ r - 1 : R[X]) :=
+  quotientMapₐ _ (aeval (X ^ k))
+    (by simpa [mem_span_singleton, pow_right_comm] using sub_one_dvd_pow_sub_one (X ^ r) k)
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean]: Can you prove this directly for `IsAdjoinRoot` rather than generalizing later?

Comment (metakunt) [reply Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean]: Aye, wanted to avoid that. Yeah it should be doable, but IsAdjoinRoot has different ways of constructing the functions.

File: Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean [hunk 2]
```diff
@@ -0,0 +1,128 @@
...
+  ext
+  simp
+
+@[simp]
+theorem mapCyclotomic_mul (R : Type*) [CommRing R] (r j k : ℕ) :
+    mapCyclotomic R r (j * k) = mapCyclotomic R r j * mapCyclotomic R r k := by
+  ext
+  simp [pow_mul]
+
+theorem mapCyclotomic_apply_eq {R : Type*} [CommRing R] {r j k : ℕ} (h : j ≡ k [MOD r]) :
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean]: Can you use the existing variable `R`?

**Comment by metakunt** [comment]
Ok, I've cleaned it up to the best of my abilities. Original Aristotle query [here](https://aristotle.harmonic.fun/dashboard/requests/fd69e78b-71f2-467e-be7c-db641e80b643)

File: Mathlib/RingTheory/IsAdjoinRoot.lean [hunk 3]
```diff
@@ -75,7 +73,7 @@ and `AdjoinRoot` which constructs a new type.
 
 This is not a typeclass because the choice of root given `S` and `f` is not unique.
 -/
-structure IsAdjoinRoot {R : Type u} (S : Type v) [CommSemiring R] [Semiring S] [Algebra R S]
+structure IsAdjoinRoot.{u,v} {R : Type u} (S : Type v) [CommSemiring R] [Semiring S] [Algebra R S]
```
Comment (tb65536) [inline Mathlib/RingTheory/IsAdjoinRoot.lean]: `Type*` would be better.

Comment (metakunt) [reply Mathlib/RingTheory/IsAdjoinRoot.lean]: Ah I see, I didn't know that setting : Type _ works. When I tried to replace everything with Type * I got unification errors.
image

Comment (metakunt) [reply Mathlib/RingTheory/IsAdjoinRoot.lean]: I also just saw that you can even leave out the type declaration. It must have been old lean code.

Thanks for letting me know. I wasn't aware that this is a possibility.

File: Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean [hunk 4]
```diff
@@ -0,0 +1,103 @@
...
+  (h : IsAdjoinRoot S (X ^ r - 1 : R[X])) (j k : ℕ)
+
+namespace RootsOfUnity
+
+theorem root_pow_self : h.root ^ r = 1 := by
+  simpa [map_sub, sub_eq_zero] using h.aeval_root_self
+
+theorem aeval_root_pow_self : aeval (h.root ^ k) (X ^ r - 1 : R[X]) = 0 := by
+  rw [aeval_sub, map_pow, aeval_X, map_one, ← pow_mul, mul_comm, pow_mul, root_pow_self]
+  simp
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean]:
```suggestion
  simp [pow_right_comm, root_pow_self h]
```

File: Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean [hunk 5]
```diff
@@ -0,0 +1,103 @@
...
+open Polynomial
+
+public section
+
+namespace IsAdjoinRoot
+
+variable {R S : Type*} [CommRing R] [CommRing S] [Algebra R S] {r : ℕ}
+  (h : IsAdjoinRoot S (X ^ r - 1 : R[X])) (j k : ℕ)
+
+namespace RootsOfUnity
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean]: I'm not so sure this nested namespace is a good idea, because it prevents dot-notation with `h`.

File: Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean [hunk 6]
```diff
@@ -0,0 +1,103 @@
...
+theorem mapCyclotomic_root_eq_pow : h.mapCyclotomic k h.root = h.root ^ k := h.liftHom_root _
+
+@[simp]
+theorem mapCyclotomic_one : h.mapCyclotomic 1 = 1 :=
+  h.algHom_eq_of_root (by simp)
+
+@[simp]
+theorem mapCyclotomic_mul :
+    h.mapCyclotomic (j * k) = h.mapCyclotomic j * h.mapCyclotomic k :=
+  h.algHom_eq_of_root (by simp [AlgHom.mul_apply, ← pow_mul])
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean]:
```suggestion
  h.algHom_eq_of_root (by simp [pow_mul])
```

File: Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean (hunk 5 above)
Comment (metakunt) [reply Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean]: Yes, I thought about that. But those theorems seem so off that I explicitly put them in a namespace so that the name during search will give you more info that this is not the theorem that you want. Maybe I can remove the namespace and instead put roots_of_unity in the name or something like that. Or how about defining the namespace RootsOfUnity.IsAdjoinRoot. That way you would get dot notation for all theorems?

Comment (tb65536) [reply Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean]: Maybe add `X_pow_sub_one` somewhere in the names?

File: Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean (hunk 4 above)
Comment (metakunt) [reply Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean]: Cool that this works. I've unsuccessfully tried to golf this with both grind and simp. Especially because of the ← pow_mul, pow_mul combo

File: Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean (hunk 5 above)
Comment (metakunt) [reply Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean]: So nested namespaces don't appear to work. Can I make it so that IsAdjoinRoot is looking both in IsAdjoinRoot and RootsOfUnity.IsAdjoinRoot?

Comment (tb65536) [reply Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean]: Yeah, I wouldn't recommend nested namespaces here.

Comment (metakunt) [reply Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean]: I've added X_pow_sub_one to both names and removed the nested namespace. Although the nested subspaces would be a cool feature.
